US07060419B2
Synthesis of 1,4-didecyloxybenzene:
A 3 liter round bottom flask was charged with hydroquinone (75 g, 0.681 moles), bromodecane (461 g, 2.08 moles), potassium carbonate (290 g, 2.09 moles), and acetonitrile (1500 mL). The flask was fitted with a mechanical stirrer and two reflux condensers. The flask was heated with stirring under nitrogen for 3 days. The flask was allowed to cool to ambient temperature, and water (2 liters) was added. The resulting solids were broken up by being shaken with water. The collected solids were air dried and then dissolved in hot heptane (2000 mL). The hot clear heptane solution was added to CH3OH (3 liters), and a colorless flocculant solid formed. The solid was collected, air dried and was suitable for use directly in the next step. 1H NMR was consistent with the proposed structure.

reactant | hydroquinone | 0.681 moles, 75 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | bromodecane | 2.08 moles, 461 g | BrCCCCCCCCCC | C10H21Br
reactant | potassium carbonate | 2.09 moles, 290 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 1500 mL | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | water | 2 liters | O | H2O
product | 1,4-didecyloxybenzene | C(CCCCCCCCC)OC1=CC=C(C=C1)OCCCCCCCCCC | C26H46O2
